US08557983B2
methyl 2-(6-chloropyridin-3-yloxy)-4-fluorobenzoate
To a solution of 6-chloropyridin-3-ol (2.41 g) in 2-methyltetrahydrofuran (20 mL) and N,N-dimethylformamide (4 mL) was added potassium tert-butoxide (1.0M in tetrahydrofuran) (18.60 mL). The reaction was stirred for 15 minutes, then methyl 2,4-difluorobenzoate (3.52 g) was added as a solution in 2-methyltetrahydrofuran (2 mL). The reaction was then heated to 80° C. and stirred under a nitrogen atmosphere for 3 days. The reaction was cooled, diluted with ethyl acetate (100 mL), washed with water (50 mL), 1N aqueous HCl (50 mL), and brine (50 mL), dried over magnesium sulfate, filtered, and concentrated. Silica gel chromatography (Reveleris 80 g), eluting with 10% ethyl acetate/hexanes provided the title compound.

reactant | 6-chloropyridin-3-ol | 2.41 g | ClC1=CC=C(C=N1)O | C5H4ClNO
reactant | potassium tert-butoxide | 1.0M, 18.60 mL | CC(C)([O-])C.[K+]
reactant | methyl 2,4-difluorobenzoate | 3.52 g | FC1=C(C(=O)OC)C=CC(=C1)F | C8H6F2O2
solvent | 2-methyltetrahydrofuran | 20 mL | CC1OCCC1 | C5H10O
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | 2-methyltetrahydrofuran | 2 mL | CC1OCCC1 | C5H10O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | methyl 2-(6-chloropyridin-3-yloxy)-4-fluorobenzoate | ClC1=CC=C(C=N1)OC1=C(C(=O)OC)C=CC(=C1)F | C13H9ClFNO3
